US04154756
Ethyl p-(hexadecylamino)benzoylacetate
A solution of 3.0 g. of t-butyl ethyl p-(hexadecylamino)benzoylmalonate in 10 ml. of trifluoroacetic acid is warmed with stirring for 3 hours. The solution is poured onto ice and neutralized with potassium hydroxide. The resulting precipitate is washed with water and dried. Recrystallization from chloroform gives the desired product.

reactant | t-butyl ethyl p-(hexadecylamino)benzoylmalonate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)C(C(=O)OC(C)(C)C)C(=O)OCC)C=C1 | C32H53NO5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium hydroxide | [OH-].[K+]
product | Ethyl p-(hexadecylamino)benzoylacetate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C27H45NO3
